Broad_Band_UCSC circuit derived from the UCSC BFR840L3RHESD amplifier netlist

* Definition of BFR840L3RHESD as a subcircuit.
.subckt BFR840L3RHESD 1 2 3
*
Rcx 15 1 1.57895
Rbx 25 2 1.92983
Rex 35 3 0.0800447
*
CBEPAR 22 33 1.9449E-013
CBCPAR 22 11 3.44161E-014
CCEPAR 11 33 2.24848E-013
LB    22 20 3.04259E-010
LC   11 10  2.88058E-010
CBEPCK 20 30  1E-014
CBCPCK 20 10  1.5502E-014
CCEPCK 10 30  1E-014
LBX    20 25 9.04631E-011
LEX   30 35 3.71422E-011
LCX   10 15  9.15043E-011
*
R_CS_npn 55 5 500
*
D1 33 25 M_D1
D2 5 25  M_D2
*
R_NBL_fdb 22 25 3.2
R_PS 33 5 0.03
RSUB 30 5 0.03
*
D3 5 15 M_D3
D4 23 33 M_D4
D5 23 15 M_D5
*
R_NBL_e11g 15 11 1.8
*
Q1 11 22 33 55 M_BFR840L3RHESD
*
.MODEL M_D1 D(
+ IS=3E-015
+ N=1
+ RS=2.846
+ CJO=4E-014)
*
.MODEL M_D2 D(
+ IS=3E-015
+ N=1
+ RS=4170
+ CJO=4.5E-014)
*
.MODEL M_D3 D(
+ IS=6.911E-016
+ N=1.1
+ RS=1380
+ CJO =9.5E-014)
*
.MODEL M_D4 D(
+ IS=3.5E-015
+ N=1
+ RS=0.2
+ CJO =3E-014)
*
.MODEL M_D5 D(
+ IS=3.5E-015
+ N=1.02
+ RS=4.7
+ CJO =3E-014)
*
.MODEL M_BFR840L3RHESD NPN(
+ TNOM = 25
+ IS   = 2.429E-016
+ BF   = 765.7
+ NF   = 1.012
+ VAF  = 375.1
+ IKF  = 0.0819
+ ISE  = 8.827E-014
+ NE   = 2.8
+ BR   = 194
+ NR   = 0.998
+ VAR  = 1.596
+ IKR  = 0.015
+ ISC  = 1.165E-015
+ NC   = 2
+ RB   = 7.53378
+ IRB  = 0
+ RBM  = 2.1
+ RE   = 0.4405
+ RC   = 7.246
+ XTB  = -2.276
+ EG   = 1.11
+ XTI  = -1.233
+ CJE  = 2.23E-014
+ VJE  = 0.9214
+ MJE  = 0.5
+ TF   = 1.1E-012
+ XTF  = 5.582
+ VTF  = 0.6828
+ ITF  = 0.4491
+ PTF  = 0.0214
+ CJC  = 6.6E-015
+ VJC  = 0.7723
+ MJC  = 1.005
+ XCJC = 0.4894
+ TR   = 1E-010
+ CJS  = 1.147E-013
+ MJS  = 1.108
+ VJS  = 0.6112
+ FC   = 0.578
+ KF   = 1.65E-011
+ AF   = 1.53)
.ends BFR840L3RHESD

* RASER replaces this PULSE with detector-current PWL for transient runs.
* AC 1 is kept for ngspice .noise analysis.
I1 2 0 PULSE(0 -10u 0 0.1n 1n 0.00000001n 20n 0) AC 1

.param CDET=30p
VCC 6 0 DC 2.25
Rin 2 0 1MEG
C6 2 0 {CDET}
C1 2 3 3.3n
X1 5 3 0 BFR840L3RHESD
R1 3 4 475
R2 4 5 3k
C2 4 5 3.3n
C5 5 out 3.3n
R4 out 0 50
L1 5 6 47u
R3 6 7 63.7
C7 8 0 10n
C8 7 0 10n
C3 7 0 1n
C4 7 0 1n
L2 8 7 2.2u

.control
noise v(out) I1 dec 100 100Hz 100GHz
setplot noise1
wrdata output/afe/Broad_Band_UCSC/noise.raw onoise_spectrum

tran 10p 5n
wrdata output/afe/Broad_Band_UCSC/tran.raw v(out)
.endc

.end
